US07576089B2
Methyl 1-[3-(Trifluoromethyl)phenyl]piperidine-4-carboxylate
Methyl piperidine-4-carboxylate (2.0 g, 14 mmol), 1-bromo-3-(trifluoromethyl)benzene (1.5 g, 6.8 mmol), and potassium tert-butoxide (0.76 g, 6.8 mmol) in a mixed solvent of toluene (20 mL) and DMF (4 mL) was added [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium(II),complex with dichloromethane (1:1) (0.3. g, 0.4 mmol) under nitrogen. The mixture was heated at 130° C. in an oil bath overnight. After cooling to room temperature, the mixture was filtered through celite and diluted with EtOAc. The resulting solution was washed with saturated NaHCO3. The aqueous layer was extracted with EtOAc twice. The combined organic layers were dried (MgSO4), concentrated and flash chromatographed with EtOAc/hexanes (20% to 40%) to give 0.90 g of product. MS (M+H) 288.2.

reactant | Methyl piperidine-4-carboxylate | 14 mmol, 2.0 g | N1CCC(CC1)C(=O)OC | C7H13NO2
reactant | 1-bromo-3-(trifluoromethyl)benzene | 6.8 mmol, 1.5 g | BrC1=CC(=CC=C1)C(F)(F)F | C7H4BrF3
reactant | potassium tert-butoxide | 6.8 mmol, 0.76 g | CC(C)([O-])C.[K+]
reactant | dichloromethane | 0.4 mmol | ClCCl | CH2Cl2
solvent | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | Methyl 1-[3-(Trifluoromethyl)phenyl]piperidine-4-carboxylate | 0.90 g | FC(C=1C=C(C=CC1)N1CCC(CC1)C(=O)OC)(F)F | C14H16F3NO2
